US07144899B2
To a stirred solution of 5-chloro-2-(1,2,5-thiadiazol-3-yl)benzaldehyde (0.155 g, 0.69 mmol), 4-methoxybenzylamine (0.09 mL, 0.69 mmol) and acetic acid (0.05 mL, 0.83 mmol) in 1,2-dichloroethane (5.2 mL) was added sodium triacetoxyborohydride (0.731 g, 3.45 mmol). The solution was stirred at ambient temperature for 16 h then partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate. The organic phase was dried (Na2SO4) and reduced in vacuo. The residue was purified by automated preparative chromatography on silica (eluting with 5% CH2Cl2/EtOAc/hexanes gradient, 5–50% EtOAc). N-[5-Chloro-2-(1,2,5-thiadiazol-3-yl)benzyl]-N-(4-methoxybenzyl)amine was isolated as an oil. 1H NMR (CDCl3, 400 MHz) δ 3.74 (s, 2H), 3.81 (s, 3H), 3.82 (s, 2H), 6.86 (d, J=8.6 Hz, 1H), 7.22 (d, J=8.4 Hz, 1H), 7.55 (d, J=8.4 Hz, 1H), 8.84 (s,1H); MS m/z=346.5.

reactant | 5-chloro-2-(1,2,5-thiadiazol-3-yl)benzaldehyde | 0.69 mmol, 0.155 g | ClC=1C=CC(=C(C=O)C1)C1=NSN=C1 | C9H5ClN2OS
reactant | 4-methoxybenzylamine | 0.69 mmol, 0.09 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | acetic acid | 0.83 mmol, 0.05 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.45 mmol, 0.731 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5.2 mL | ClCCCl | C2H4Cl2
product | N-[5-Chloro-2-(1,2,5-thiadiazol-3-yl)benzyl]-N-(4-methoxybenzyl)amine | ClC=1C=CC(=C(CNCC2=CC=C(C=C2)OC)C1)C1=NSN=C1 | C17H16ClN3OS
